US05246957
A mixture of isopropyl 5-fluoro-3-methyl-1H-indole-2-propanoate (0.42 g),1N sodiumhydroxide (6.3 ml) and methanol (20 ml) are stirred at room temperature for 4 hours. The reaction mixture is poured into water, washed with methylene chloride, acidified with 1N HCl and extracted with methylene chloride. The organic layer, dried and evaporated, affords 0.36 g of 5-fluoro-3-methyl-1H-indole-2-propanoic acid.

reactant | isopropyl 5-fluoro-3-methyl-1H-indole-2-propanoate | 0.42 g | FC=1C=C2C(=C(NC2=CC1)CCC(=O)OC(C)C)C | C15H18FNO2
reactant | sodiumhydroxide | 1N, 6.3 ml | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 5-fluoro-3-methyl-1H-indole-2-propanoic acid | 0.36 g | FC=1C=C2C(=C(NC2=CC1)CCC(=O)O)C | C12H12FNO2
